US06759426B2
Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(1-propyl-1H-imidazol-4-yl)propanoate
n-propyl bromide (0.17 ml, 1.85 mmol) was added to a mixture of Nα-Boc-L-histidine methyl ester (500 mg, 1.85 mmol) and potassium carbonate (200 mg, 1.85 mmol) in acetonitrile (20 ml), and the mixture was heated under reflux for 18 hours. TLC analysis showed starting material remaining, so additional n-propyl bromide (0.17 ml, 1.85 mmol) and potassium carbonate (200 mg, 1.85 mmol) were added, and the mixture was heated for a further 8 hours. The cooled mixture was concentrated under reduced pressure. The residue was dissolved in water and the solution was extracted with ethyl acetate (3×20 ml). The combined organic extracts were washed with brine (3×20 ml), dried (Na2SO4) and evaporated under reduced pressure. The residual orange oil was purified by column chromatography on silica gel using an elution gradient of hexane:ethyl acetate (100:0 to 0:100) to afford the title compound as a colourless oil, 200 mg. 1H-NMR (CDCl3, 300 MHz) δ: 0.90 (t, 3H), 1.42 (s, 9H), 1.78 (m, 2H), 3.03 (m, 2H), 3.68 (s, 3H), 3.80 (t, 2H), 4.56 (m, 1H), 5.92 (m, 1H), 7.37 (s, 1H). LRMS: m/z (TSP+) 312.2 (MH+).

reactant | n-propyl bromide | 1.85 mmol, 0.17 ml | CCCBr | C3H7Br
reactant | Nα-Boc-L-histidine methyl ester | 1.85 mmol, 500 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC=N1)=O | C12H19N3O4
reactant | potassium carbonate | 1.85 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl bromide | 1.85 mmol, 0.17 ml | CCCBr | C3H7Br
reactant | potassium carbonate | 1.85 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(1-propyl-1H-imidazol-4-yl)propanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC=1N=CN(C1)CCC | C15H25N3O4
